US06465507B2
2-Oxo-3-(4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrol-1-ylmethylene)-2,3-dihydro-1H-indole-5-sulfonic Acid Amide
2-Oxo-2,3-dihydro-1H-indole-5-sulfonic acid amide was condensed with 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde to give the title compound.

reactant | 2-Oxo-2,3-dihydro-1H-indole-5-sulfonic acid amide | O=C1NC2=CC=C(C=C2C1)S(=O)(=O)N | C8H8N2O3S
reactant | 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde | O=C1OCCC=2C1=CNC2C=O | C8H7NO3
product | 2-Oxo-3-(4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrol-1-ylmethylene)-2,3-dihydro-1H-indole-5-sulfonic Acid Amide | O=C1NC2=CC=C(C=C2C1=CC1=C2C(=CN1)C(OCC2)=O)S(=O)(=O)N | C16H13N3O5S
